US05500453
An aqueous solution of 5.00 g of lithium butyltriphenylborate in 100 ml of water was added to an aqueous solution of 3.74 g of dimethylethoxycarbonylmethylsulfonium bromide in 200 ml of water, and the resultant mixture was stirred at room temperature for 30 minutes. Then, the reaction mixture was filtered, and the resultant crystal was washed with water and dried to give 6.32 g of dimethylethoxycarbonylmethylsulfonium-butyltriphenylborate.

reactant | lithium butyltriphenylborate | 5.00 g | C(CCC)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[Li+]
reactant | dimethylethoxycarbonylmethylsulfonium bromide | 3.74 g | [Br-].C[S+](CC(=O)OCC)C
solvent | water | 100 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | dimethylethoxycarbonylmethylsulfonium butyltriphenylborate | 6.32 g | C[S+](CC(=O)OCC)C.C(CCC)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C22H24B.C6H13O2S/c1-2-3-19-23(20-13-7-4-8-14-20,21-15-9-5-10-16-21)22-17-11-6-12-18-22;1-4-8-6(7)5-9(2)3/h4-18H,2-3,19H2,1H3;4-5H2,1-3H3/q-1;+1
